Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___
 
Chief Complaint:
RUQ pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: ___ with hx of HIV/AIDS (w/past PCP 
and CMV, recent CD4 of 580, undet viral load) and CAD s/p CABG, 
AVR replacement ___, ___ Disease (s/p RAI ablation) who p/w 
3d of progressively increasing RUQ pain, no N/V, no F/C. The 
pain is located below his ribcage, radiating to both sides with 
RUQ>LUQ, crampy in nature with ___ pain since yesterday that 
radiates laterally but not to his back. At home he took NSAIDs, 
which initially helped, but no longer affects the pain. Notes 
increasing passing of gas, increased frequency in BMs but lower 
volume each, solid, no blood, no change in consistency. Pain 
non-exertional, no SOB, no CP. No tingling or numbness, rashes, 
dizzyness. He came to the ___ office this morning and was 
walked to the ___ ED.  
.  
6 weeks ago, while in ___, pt had a similar episode with 
post-meal "uneasy" feeling while driving that developed into 
vertigo, which subsided and was replaced with acute N/V in the 
setting of RUQ pain. Motrin treated the pain and it was gone by 
the morning. No hx of GB disease.  
.  
In the ED, initial vs were: T 98.9, 70, 149/88, 18, 100 RA, pain 
___. Labs notable for transaminitis. Exam w/exophthalmus, mild 
abdominal tenderness, no flank tenderness, no guarding/rebound, 
guaiac negative. Pedal pulses intact. EKG showed V3-V4 TWI 
compared to ___. CXR without formal read, but no 
pneumoperitoneum seen. RUQ u/s showed GB distended w/ thickened 
wall and echogenic mass within GB (may represent tumefactive 
sludge or neoplasm); no ___ sign or pericholecystic fluid - 
MRCP recommended to assess GB mass and to better assess for 
cholecystitis. Patient was given ASA 325mg, morphine 4mg IV x 3, 
NS at 150 cc/hr. On transfer, vitals: P 83, BP 179/99, RR 23, 
O2sat 96 on 3L.  
.  
On the floor, patient reports that abdominal pain is ___  

 
Past Medical History:
HIV (CMV, PCP ___ ___ most recent CD4 T cell count of 580, 
undetectable viral load ___  
Kaposi's Sarcoma s/p excision  
CAD s/p CABG (LAD only), AVR (porcine), aortic graft ___
PCP ___  
___ Disease, s/p radioactie iodine ablation  
Bipolar disorder, on Lithium, seroquel  
Depression s/p ECT c/b slight memory loss  
s/p Tonsillectomy  

 
Social History:
___
Family History:
Father with MI and died at ___.  Mother with a pacemaker, died at 
___ with ?ovarian cancer. Brother healthy, living in ___. 
 Pt has no children. 
 
Physical Exam:
Admission Physical Exam:  
Vitals: T 98.9, BP 153/92, P 81, RR 22, O2sat 95 2L
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, EOMI and PERRLA. 
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly (examined 
just after pain meds had been administered) 
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, 
Neuro: AAOx3, CN II-XII intact, though stable disconjugate gaze 
and slight lateral deviation of left eye, strength ___, 
sensation to LT intact, mild bilateral tremor (?intention) - no 
asterixis

Discharge Physical Exam:  
Vitals: T 99.1, BP 132/82, P 65, RR 20, O2sat 95 on RA
General: AOx3, no acute distress  
HEENT: Sclera anicteric, MMM
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, mildly tender in RUQ, otherwise non-tender, 
-distended, bowel sounds present, no rebound tenderness or 
guarding, no HSM
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema, 
Neuro: AAOx3, CN II-XII intact, though stable disconjugate gaze 
strength ___,  mild bilateral tremor (?intention) - no asterixis
 
Pertinent Results:
Admission Labs:
___ 10:50AM BLOOD WBC-9.8# RBC-5.23 Hgb-15.4 Hct-47.5 
MCV-91 MCH-29.4 MCHC-32.4 RDW-14.3 Plt ___
___ 10:50AM BLOOD Neuts-74.9* ___ Monos-5.8 Eos-0.7 
Baso-0.4

___ 06:40AM BLOOD ___ PTT-25.1 ___

___ 10:50AM BLOOD Glucose-134* UreaN-12 Creat-1.0 Na-133 
K-5.6* Cl-100 HCO3-24 AnGap-15 (note: sample was partially 
hemolyzed)
___ 02:15PM BLOOD K-3.9
___ 02:15PM BLOOD Calcium-9.4 Phos-3.5 Mg-1.8

___ 10:50AM BLOOD ALT-100* AST-108* AlkPhos-92 TotBili-1.0
___ 02:15PM BLOOD ALT-102* AST-84* LD(LDH)-210 CK(CPK)-176
___ 10:50AM BLOOD Lipase-31

___ 06:40AM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:35PM BLOOD CK-MB-2 cTropnT-<0.01
___ 10:50AM BLOOD cTropnT-<0.01

Discharge labs:
___ 06:00AM BLOOD WBC-10.1 RBC-4.31* Hgb-12.9* Hct-40.4 
MCV-94 MCH-29.8 MCHC-31.9 RDW-14.8 Plt ___
___ 06:00AM BLOOD Glucose-94 UreaN-7 Creat-1.0 Na-137 K-4.2 
Cl-103 HCO3-26 AnGap-12
___ 06:00AM BLOOD Calcium-9.0 Phos-2.8 Mg-1.9
___ 06:00AM BLOOD ALT-65* AST-48* AlkPhos-87 TotBili-0.9
Pending: HCV Ab level
.
CXR ___:
Findings: The heart size is top normal. The aorta is very 
tortuous. Sutures of the prior wedge resection of right lower 
lobe are noted. No pneumothorax, focal consolidation, or pleural 
effusion is detected. No free intraperitoneal  air is noted. 
.
Liver and GB U/S with Doppler (___):
Distended gallbladder with mild wall thickening and luminal 
echogenic mass. The differential considerations for this mass 
include tumefactive sludge versus GB mass. MRCP is recommended 
for further characterization and to better assess for possible 
acute cholecystitis.  
.
MRCP ___
There is atelectasis at both lung bases. The gallbladder 
contains multiple 
calculi and is distended. In addition, there is a calculus 
within the neck of the gallbladder and there are smaller calculi 
are also present in the cystic duct (image 5, series 8). There 
is thickening and edema of the wall of gallbladder with 
hyperenhancement of the wall and the liver parenchyma 
adjacent to the gallbladder fossa (image 76, series 1201). There 
is also free fluid around the gallbladder and the inferior 
aspect of liver. The overall findings are consistent with acute 
cholecystitis. The intra- and 
extra-hepatic bile ducts appear unremarkable. 
.  
The liver, spleen, pancreas, adrenal glands and kidneys do not 
demonstrate any focal lesions. The visualized bowel appears 
unremarkable. There is no upper abdominal lymphadenopathy. There 
is no abnormal marrow signal. 
.  
Multiplanar 2D and 3D reformation and subtraction images 
provided multiple 
perspectives of the dynamic series.   
IMPRESSION: Overall findings are most consistent with acute 
calculous cholecystitis.  Normal intra- and extra-hepatic bile 
ducts. 
.

 
Brief Hospital Course:
___ PMH AIDS (w/past PCP and CMV) and CAD s/p CABG and AVR 
___, ___ Disease (s/p RAI ablation) who p/w 3d RUQ pain. 
Mass found on RUQ u/s, acute cholecystitis on MRCP, antibiotics 
started to reduce inflammation.
.
#RUQ pain:  Presented with RUQ pain w/o F/N/V/C and was found by 
U/S to have an echogenic mass in his GB which was further worked 
up by MRCP which noted multiple calculi in the GB and the cystic 
duct, with dilation of the cystic duct and pericholecystic fluid 
all consistent with acute calculous cholecystitis. Surgery was 
consulted and did not feel pt required surgery at the time and 
recommended PO abx given pt had improved pain, was afebrile and 
no elevation in WBC.  The patient was discharged with 10d total 
course of Augmentin 875mg BID(to complete ___, started Abx ___ 
pm with 3 days of Unasyn iv while admitted), to return to clinic 
with Dr. ___ ___ for f/u and procedure scheduling. F/u 
scheduled with PCP ___ ___ 
- Instructed to call PCP or return to ED with exacerbation of sx
- HCV Ab negative (checked for ?chronic hepatitis given LFTs)
.
#?mild EKG changes (intermittent LBBB, ?TWI in ED) with RUQ pain 
on presentation: Significant cardiac hx with 1v CAD s/p CABG, 
AVR, and aortic grafts (___) but presentation not especially 
concerning for ongoing cardiac ischemia.  ___ completed (3 sets 
of cardiac enzymes), fully negative. No CP, SOB, DOE. We 
continued home aspirin, HTN, HL regimen  
.
#HIV: last CD4 T cell ___ was 580 with undetectable 
viral load. We continued HIV home regimen (confirmed with ___ 
outpt med list, pt and outpt pharmacy)
.
#BP: stable
- continue home psychiatric medications
.
___ disease: s/p radioiodine ablation
- continue home synthroid
 
Medications on Admission:
Acyclovir 400 mg bid prn  
Atorvastatin 10 mg daily  
Citalopram 10 mg daily  
Cyclosporine 0.05% 1 gtt bid ___  
___ (Prezista) 600 mg bid with ritonavir  
Lamivudine (Epivir) 150 mg bid  
Lamotrigine 100 mg bid  
Levothyroxine (Synthroid) 250 mcg daily ___, 125 mcg ___ 
 
Lithium SR 450 mg bid  
Opium tincture 10 mg/mL 5 mL daily prn  
Oxandrolone 5 mg bid  
Propanalol SA 80 mg daily for tremors from lithium  
Quetiapine 75 mg qhs and 25 mg prn anxiety  
Raltegravir (Isentress) 400 mg bid  
Ritonavir (Norvir) 100 mg bid with ___  
Tadalafil (Cialis) ___ mg q3d prn  
Testosterone (Androgel) 2 pumps to skin daily  
Acetylcysteine 600 mg ___  
Ascorbic acid ___ mg ___  
Aspirin EC 81 mg daily  
Beta carotine 25,000 units 3x/week  
CALCIUM-MAGNESIUM-ZINC - (OTC) - Tablet - 1 Tablet(s) by mouth 
two times per week ___ and ___) Calcium 500mg, Magnesium 
200mg, Zinc 2.5mg  
CHROMIUM PICOLINATE - (OTC) - 200 mcg Tablet - 1 Tablet(s) by 
mouth four times per week (___)  
COENZYME Q10 [COQ-10] - (Dose adjustment - no new Rx) - 30 mg 
Capsule - 1 Capsule(s) by mouth three times per week 
(___)  
CYANOCOBALAMIN [VITAMIN B-12] - (OTC; Dose adjustment - no new 
Rx) - 500 mcg Tablet - 1 Tablet(s) by mouth three days per week 
(___) taken 1-hr before breakfast  
ERGOCALCIFEROL (VITAMIN D2) [VITAMIN D] - 1,000 unit Capsule - 
One Capsule(s) by mouth once daily.  
FLAXSEED MEAL & WHEAT GERM - (OTC) - Dosage uncertain  
FLAXSEED OIL - (Prescribed by Other Provider; OTC) - 1,000 mg 
Capsule - 1 Capsule(s) by mouth twice a week (tue and ___  

FOLIC ACID - (Prescribed by Other Provider) - 0.4 mg Tablet - 1 
Tablet(s) by mouth four times a week(mon,wed, ___  
___ B-50 HIGH POTENCY - (OTC) - - 2 per week (___)  
MULTIVITAMIN [MULTIPLE VITAMINS] - (OTC) - Dosage uncertain  
SIBERIAN GINSENG + GINKGO - (OTC) - - 500mg occasionally for tea 
 
VITAMIN E [NATURAL VITAMIN E] - (Prescribed by Other Provider; 
OTC) - 400 unit Capsule - 1 Capsule(s) by mouth three times a 
week (tue,thurs, sat)  
 
Discharge Medications:
1. ___ 600 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
2. Raltegravir 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. Ritonavir 100 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
4. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Levothyroxine 125 mcg Tablet Sig: Two (2) Tablet PO ON 
___ ().  
6. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO ___ 
AND ___ ().  
7. Propranolol 80 mg Capsule,Sustained Action 24 hr Sig: One (1) 
Capsule,Sustained Action 24 hr PO DAILY (Daily).  
8. Cyclosporine 0.05 % Dropperette Sig: One (1) Dropperette 
Ophthalmic bid ().  
9. Oxandrolone 2.5 mg Tablet Sig: Two (2) Tablet PO bid ().  
10. Lamotrigine 100 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day).  
11. Citalopram 20 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  

12. Quetiapine 25 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).  
13. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
14. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
15. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO BID (2 times a day).  
16. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
17. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
18. Psyllium     Packet Sig: One (1) Packet PO BID (2 times a 
day) as needed for constipation.  
19. Lithium Carbonate 300 mg Tablet Sustained Release Sig: 1.5 
Tablet Sustained Releases PO BID (2 times a day).  
20. Lamivudine 150 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
21. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Acute calculous cholecystitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, it has been a pleasure participating in your 
care.  You were admitted to the ___ ___ with abdominal 
pain, and were found by ultrasound to have a mass in your 
gallbladder.  To further characterize that mass you had an MRCP, 
which showed stones in your gallbladder and in the cystic duct, 
distention of the gallbladder and fluid around your gallbladder 
all of which is consistent with acute cholecystitis.  Your pain 
was initially treated with iv pain medication (morphine and 
dilaudid) and you transitioned to oral pain medication the 
morning after admission, not requiring any further pain 
medication.  You received intravenous fluids and your abdominal 
pain improved substantially by the next day. 

The following changes were made to your medications:
- Tylenol ___ (no more than 2g/day)
- If that is not sufficient, ___ mg po dilaudid
Please take all medications as tolerated
 
Followup Instructions:
___